US04593034
N-(1-Azabicyclo[2.2.2]oct-3-yl)-2,4-dimethoxybenzamide hydrochloride [1:1]
A mixture of 3-aminoquinuclidine dihydrochloride, 6.95 g, (0.0349), 2,4-dimethoxybenzoyl chloride, 700 g, (0.0349 mole). anhydrous sodium carbonate, 36.99 g, (0.349 mole), 175 ml water, and 175 ml chloroform was stirred rapidly to achieve good mixing of the 2 layers for 20 hrs. The chloroform layer was then separated, washed with water, dried over anhydrous magnesium sulfate, and concentrated to an impure oil. The oil was triturated twice with 20 ml portions of petroleum ether to remove some impurities. The oil was then dissolved in ether and filtered to remove a small amount of insoluble material. The filtrate was treated with ethereal hydrogen chloride and the resulting salt collected to yield 2.70 g (23.7% yield) white solid. The salt was recrystallized from ethanol-isopropyl ether. Further recrystallization from methanol-ethyl ether yielded a white solid, m.p. 211°-212° C. The NMR analysis was satisfactory.

reactant | 3-aminoquinuclidine dihydrochloride | Cl.Cl.NC1CN2CCC1CC2
reactant | 2,4-dimethoxybenzoyl chloride | 6.95 g | COC1=C(C(=O)Cl)C=CC(=C1)OC | C9H9ClO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 0.349 mole, 175 ml, 36.99 g | O | H2O
solvent | chloroform | 175 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-2,4-dimethoxybenzamide hydrochloride | 2.70 g, 23.7% yield | Cl.N12CC(C(CC1)CC2)NC(C2=C(C=C(C=C2)OC)OC)=O | InChI=1S/C16H22N2O3.ClH/c1-20-12-3-4-13(15(9-12)21-2)16(19)17-14-10-18-7-5-11(14)6-8-18;/h3-4,9,11,14H,5-8,10H2,1-2H3,(H,17,19);1H
